US08314100B2
1-[(2-Methoxy-6-methylquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dimethylphenyl)piperazine (Compound 52)
Ethyl N-(2-methoxy-6-methylquinoxalin-3-yl)carbamate and 1-(3,5-dimethylphenyl)piperazine were reacted by the same way with the example 43 to obtain the titled compound (yield, 87%). 1H NMR (300 MHz, CDCl3): δ 2.29 (s, 6H), 2.42-2.48 (m, 3H), 3.20-3.28 (m, 4H), 3.75-3.80 (m, 3H), 4.10-4.13 (m, 4H), 6.59 (s, 3H), 7.00-7.12 (m, 1H), 7.31 (d, J=8.4 Hz, 1H), 7.48-7.65 (m, 2H).

reactant | Ethyl N-(2-methoxy-6-methylquinoxalin-3-yl)carbamate | COC1=NC2=CC=C(C=C2N=C1NC(OCC)=O)C | C13H15N3O3
reactant | 1-(3,5-dimethylphenyl)piperazine | CC=1C=C(C=C(C1)C)N1CCNCC1 | C12H18N2
product | 1-[(2-Methoxy-6-methylquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dimethylphenyl)piperazine | 87% | COC1=NC2=CC=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)C)C)C | C23H27N5O2
